US08791142B2
Step 2) [5-bromo-2-(2-methylpyrrolidin-1-yl)phenyl]methanol
To a solution of 5-bromo-2-(2-methylpyrrolidin-1-yl)benzaldehyde (17 g, 63.4 mmol) in methanol (150 mL) under nitrogen was added sodium borohydride (2.41 g, 63.4 mmol) at 0° C. in portions. The reaction mixture was stirred at RT for 1 hour, then evaporated to remove methanol. The resulting crude was taken up with water (250 mL) and extracted with EtOAc (150 mL). The organic layer was washed with water, then dried (Na2SO4) and concentrated under reduced pressure to afford the title compound as a yellow oil (16 g, 93%). 1H NMR (DMSO-d6, 400 MHz) δ 7.53 (1H, d), 7.27 (1H, d), 6.87 (1H, d), 5.22 (1H, t), 4.42 (2H, m), 3.56 (1H, m), 3.36 (1H, m), 2.70 (1H, m), 2.49 (1H, m) 2.09 (1H, m), 1.83 (1H, m), 1.73 (1H, m), 1.47 (1H, m), 0.90 (3H, d).

reactant | 5-bromo-2-(2-methylpyrrolidin-1-yl)benzaldehyde | 63.4 mmol, 17 g | BrC=1C=CC(=C(C=O)C1)N1C(CCC1)C | C12H14BrNO
reactant | sodium borohydride | 63.4 mmol, 2.41 g | [BH4-].[Na+]
solvent | methanol | 150 mL | CO | CH4O
product | [5-bromo-2-(2-methylpyrrolidin-1-yl)phenyl]methanol | 16 g, 93% | BrC=1C=CC(=C(C1)CO)N1C(CCC1)C | C12H16BrNO
